US04033948
Preparation of 2-[3-(2-cyano-4-nitrophenyl)allylidene]-1-ethyl-1,2-dihydroquinoline, FIG. 14.
The condensation of 4.02 g. (0.01 mole) of 2-(2-anilinovinyl)-1-ethylquinolinium iodide (prepared as described in British Pat. No. 344,409 m.p. 263°-5° C. (dec.)) with 2-cyano-4-nitrotoluene (1.67 g., 0.01 mole) was effected in 15 ml. of dimethylformamide containing 2 ml. of acetic anhydride by heating the reaction mixture to reflux, adding 1.01 g. (0.01 mole) of triethylamine, heating at reflux for 1 to 2 minutes and cooling rapidly. The precipitate was collected, washed successively with dimethylformamide, water and ether and then dried to yield 47% of theory of blue dye base m.p. 250°-252° C.

reactant | 2-(2-anilinovinyl)-1-ethylquinolinium iodide | 0.01 mole | [I-].N(C1=CC=CC=C1)C=CC1=[N+](C2=CC=CC=C2C=C1)CC
reactant | 2-cyano-4-nitrotoluene | 0.01 mole, 1.67 g | C(#N)C1=C(C=CC(=C1)[N+](=O)[O-])C | C8H6N2O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.01 mole | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-[3-(2-cyano-4-nitrophenyl)allylidene]-1-ethyl-1,2-dihydroquinoline | 47% | C(#N)C1=C(C=CC(=C1)[N+](=O)[O-])C=CC=C1N(C2=CC=CC=C2C=C1)CC | C21H17N3O2
